US06995162B2
1-Methyl-4-(5-nitro-2-pentafluoroethyl-benzyl)-piperazine
2-Bromomethyl-4-nitro-1-pentafluoroethyl-benzene (2.6 g) was added to N-methylpiperazine (5 ml) and stirred at RT for 3 h. The mixture was filtered and the filtrate was treated with 1-chlorobutane, extracted with 2N HCl (100 ml). The acidic solution was treated with 5N NaOH (6 ml) then extracted with EtOAc. The organic layer was removed, dried over MgSO4 and concentrated to give the compound as an oil.

reactant | 2-Bromomethyl-4-nitro-1-pentafluoroethyl-benzene | 2.6 g | BrCC1=C(C=CC(=C1)[N+](=O)[O-])C(C(F)(F)F)(F)F | C9H5BrF5NO2
reactant | N-methylpiperazine | 5 ml | CN1CCNCC1 | C5H12N2
product | 1-Methyl-4-(5-nitro-2-pentafluoroethyl-benzyl)-piperazine | CN1CCN(CC1)CC1=C(C=CC(=C1)[N+](=O)[O-])C(C(F)(F)F)(F)F | C14H16F5N3O2
